US06653305B2
Methyl(2-hydroxybutylamino)acetate hydrochloride
2.85 g of (2-hydroxybutylamino)acetic acid in 100 ml of methanol are cooled in an ice-acetone cooling bath, then 7.27 ml of thionyl chloride is added dropwise within 20 minutes. The reaction mixture is left overnight to come back to ambient temperature and then evaporated to dryness. Methanol is added several times to the residue and this is then concentrated by evaporation. The crude product is reacted further without any more purification. Yield: 3.83 g (100% of theory); Rf value: 0.85 (reversed phase ready-made TLC plate (E. Merck), methanol/5% sodium chloride solution=6:4); mass spectrum (ESI+): m/z=162 [M+H]+.

reactant | (2-hydroxybutylamino)acetic acid | 2.85 g | OC(CNCC(=O)O)CC | C6H13NO3
reactant | thionyl chloride | 7.27 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 100 ml | CO | CH4O
product | Methyl(2-hydroxybutylamino)acetate hydrochloride | Cl.COC(CNCC(CC)O)=O | InChI=1S/C7H15NO3.ClH/c1-3-6(9)4-8-5-7(10)11-2;/h6,8-9H,3-5H2,1-2H3;1H
